US07964645B2
Preparation of rac-3-Phenyl-N-({[phenyl-(3-trifluoromethyl-phenyl)-methyl]-carbamoyl}-methyl)-propionamide
Prepared in analogy to example 1.1 from (3-phenyl-propionylamino)-acetic acid (CA [56613-60-6]) and rac-C-phenyl-C-(3-trifluoromethyl-phenyl)-methylamine (CA [70428-92-1]).

reactant | (3-phenyl-propionylamino)-acetic acid | C1(=CC=CC=C1)CCC(=O)NCC(=O)O | C11H13NO3
reactant | rac-C-phenyl-C-(3-trifluoromethyl-phenyl)-methylamine | C1(=CC=CC=C1)C(C1=CC(=CC=C1)C(F)(F)F)N | C14H12F3N
product | rac-3-Phenyl-N-({[phenyl-(3-trifluoromethyl-phenyl)-methyl]-carbamoyl}-methyl)-propionamide | C1(=CC=CC=C1)CCC(=O)NCC(NC(C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1)=O | C25H23F3N2O2
